US04794108
In 6 ml of chloroform dried with molecular sieve is dissolved 390 mg (1.21 mmole) of (3S,4S)-1-benzyloxy-3-(tert-butoxycarbonylamino)-4-hydroxymethyl-2-azetidinone, and a solution of 0.11 ml (1.33 mmole) of chlorocarbonyl isocyanate in 2 ml of dried chloroform is added dropwise to the solution under ice-cooling with stirring. After the stirring under ice-cooling for 30 minutes, the same amount of chlorocarbonyl isocyanate is furthermore added to the reaction solution in the same manner. After the stirring under ice-cooling for further 30 minutes, 10 ml of saturated aqueous sodium hydrogen carbonate solution is added to the reaction solution. The chloroform is distilled off under reduced pressure, and 10 ml of 3N hydrochloric acid and ethyl acetate are added to the residue, followed by thorough shaking. The ethyl acetate layer is separated, while the aqueous layer is extracted again with ethyl acetate, and the ethyl acetate layers are combined, washed with aqueous sodium chloride solution, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. Ether and n-hexaneare added to the residue, and the resulting crystals are recovered by filtration to give 320 mg of (3S,4S)-1benzyloxy-3-(tert-butoxycarbonylamino)-4-carbamoyloxymethyl-2azetidinone.

reactant | (3S,4S)-1-benzyloxy-3-(tert-butoxycarbonylamino)-4-hydroxymethyl-2-azetidinone | 1.21 mmole, 390 mg | C(C1=CC=CC=C1)ON1C([C@H]([C@H]1CO)NC(=O)OC(C)(C)C)=O | C16H22N2O5
reactant | chlorocarbonyl isocyanate | 1.33 mmole, 0.11 ml | ClC(=O)N=C=O | C2ClNO2
reactant | sodium hydrogen carbonate | 10 ml | C(O)([O-])=O.[Na+]
solvent | chloroform | 2 ml | C(Cl)(Cl)Cl | CHCl3
product | (3S,4S)-1benzyloxy-3-(tert-butoxycarbonylamino)-4-carbamoyloxymethyl-2azetidinone | 320 mg | C(C1=CC=CC=C1)ON1C([C@H]([C@H]1COC(N)=O)NC(=O)OC(C)(C)C)=O | C17H23N3O6
